US08580957B2
A solution of 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(4-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate (for a preparation see intermediate 71) (192.2 mg, 0.371 mmol) in dichloromethane (DCM) (4 mL) was treated with trifluoroacetic acid (TFA) (1 mL, 12.98 mmol) and the resulting mixture was stirred at room temperature for 1.5 h then concentrated in vacuo. The residue was loaded on a 5 g SCX cartridge then eluted with MeOH (20 mL) followed by 2M NH3 in MeOH (20 mL). The ammonia fractions were combined and concentrated in vacuo. Purification of the residue on SP4 using a 25 G silica cartridge (gradient:1 to 10% (2M NH3 in MeOH) in DCM) gave a first residue which was purified by MDAP (modifier: formic acid) to give another residue which was dissolved in DCM (5 mL). The resulting solution was treated with HCl (1M in Et2O, 0.22 mL, 0.220 mmol) then concentrated in vacuo. Trituration of the residue with Et2O gave (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(4-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (79.7 mg, 0.171 mmol, 46.1% yield) as a white solid.

reactant | 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(4-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | CC(C)(C)CN(C([O-])=O)CCN1N=CC(=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC=CC(=C1)C
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 0.220 mmol, 1M, 0.22 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | (2S,4R)-1-acetyl-2-methyl-6-{1-[2-(methylamino)ethyl]-1H-pyrazol-4-yl}-N-(4-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | 0.171 mmol, 79.7 mg, 46.1% yield | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCNC)NC1=NC=CC(=C1)C)C | InChI=1S/C24H30N6O.ClH/c1-16-7-8-26-24(11-16)28-22-12-17(2)30(18(3)31)23-6-5-19(13-21(22)23)20-14-27-29(15-20)10-9-25-4;/h5-8,11,13-15,17,22,25H,9-10,12H2,1-4H3,(H,26,28);1H/t17-,22+;/m0./s1
